US04963254
Separately, 112.2 g of α-naphthylacetonitrile and 26.7 g of methanol were stirred together at 35° C., thus dissolving the former in the latter. Then hydrogen chloride gas was introduced into the obtained solution at room temperature until white crystals were formed and solidified. 200 ml of diethyl ether was added thereto and the resulting mixture was thoroughly stirred and filtered. The powder thus obtained was dried under reduced pressure to thereby give 62.6 g of crude methyl-(α-naphthyl)acetoimidate hydrochloride. To 30 g of this product, 1064 g of a 10.5% aqueous solution of sodium hypochlorite was added by portions under ice-cooling. 140 ml of benzene was further added thereto and the resulting mixture was stirred for 30 minutes. After filtering the reaction mixture, the filtrate was fractionated and the benzene phases were combined. The aqueous phase was extracted by 160 ml of benzene under shaking and the benzene phase thus obtained was combined with the above-mentioned ones. Then the benzene phase was dried by adding 50 g of magnesium sulfate thereto and filtered. The filtrate was concentrated at 50° C. under reduced pressure. The residue was dissolved in 110 ml of benzene and introduced into a dropping funnel. Then this solution was added dropwise to a solution which had previously been prepared by dissolving 26.9 g of a 28% methanol solution of sodium methylate in 73 ml of dry methanol and the resulting mixture was stirred for 30 minutes under ice-cooling and then for two hours at room temperature. Subsequently 147 ml of 2N hydrochloric acid was added thereto. The lower aqueous phase was collected while 40 ml of 2N hydrochloric acid was added to the upper phase which was then further extracted. The collected aqueous phase was combined with the above-mentioned aqueous phase and concentrated at 45° C. under reduced pressure. 100 ml of 2N hydrochloric acid and 50 ml of methanol were added to the residue and the mixture was heated under reflux for one hour. Then 200 ml of water was added thereto and the mixture was thoroughly stirred. The aqueous phase was collected, and 5 g of active carbon was added thereto, followed by filtering the mixture. 100 ml of ethanol was added to the filtrate and the mixture was filtered. The filtrate was concentrated at 50° C. under reduced pressure and the residue was dissolved in 100 ml of ethanol. After filtering off the insoluble materials, the filtrate was concentrated at 50° C. under reduced pressure. The residue was dried under reduced pressure to thereby give 5.9 g of (RS)-(α-naphthyl)glycine methyl ester hydrochloride. This product was suspended in 80 ml of dry tetrahydrofuran and 5.8 g of 3,5-dinitrobenzoyl chloride was added thereto under stirring. Then N-methylmorpholine was added thereto by portions until no white fume was observed any more. The resulting mixture was stirred over day and night and then filtered. The filtrate was concentrated at 50° C. under reduced pressure to thereby give 11 g of N-3,5-dinitrobenzoyl-(RS)-(α-naphthyl)glycine methyl ester. To the ester thus obtained, 50 ml of methanol and 70 ml of tetrahydrofuran were added. 150 ml of a 1N aqueous solution of sodium hydroxide was further added thereto and the obtained mixture was stirred at room temperature for two hours and then concentrated at room temperature under reduced pressure. 200 ml of water and 200 ml of chloroform were added to the residue to thereby extract the same under shaking. The aqueous phase was collected and the pH value of the same was adjusted to 3 by adding 6N hydrochloric acid. Then it was extracted with 300 ml of ethyl acetate under shaking and the ethyl acetate phase was collected. The ethyl acetate phase was dried by adding 50 g of anhydrous sodium sulfate thereto and filtered. The filtrate was concentrated at 50° C. under reduced pressure to thereby give 10 g of N-3,5-dinitrobenzoyl-(RS)-(α-naphthyl)glycine. 5 g of this product was recrystallized from 5 ml of methanol and 20 ml of chloroform. The crystals were filtered and dried under reduced pressure to thereby give 2.1 g of purified N-3,5-dinitrobenzoyl-(RS)-(o-naphthyl)glycine. This product was dissolved in 5 ml of methanol and injected into a stainless steel-made high-performance liquid chromatography column of 8 mm in inner diameter and 25 cm in length, in which a packing material obtained by chemically bonding N-(S)-1-(α-naphthyl)ethylaminocarbonyl-L-valine to APS was packed, to thereby optically resolve the product. The obtained fractions were concentrated under reduced pressure to thereby give 0.72 g of N-3,5-dinitrobenzoyl-(R)-(α-naphthyl)glycine.

reactant | α-naphthylacetonitrile | 112.2 g | C1(=CC=CC2=CC=CC=C12)CC#N | C12H9N
reactant | methanol | 26.7 g | CO | CH4O
reactant | hydrogen chloride | Cl | ClH
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | methyl-(α-naphthyl)acetoimidate hydrochloride | 62.6 g | Cl.COC(CC1=CC=CC2=CC=CC=C12)=N | InChI=1S/C13H13NO.ClH/c1-15-13(14)9-11-7-4-6-10-5-2-3-8-12(10)11;/h2-8,14H,9H2,1H3;1H
